US03956344
Five hundred forty eight grams (2 moles) of 2-(cyanophenylmethyl)-3-nitro-6-chloropyridine were suspended in 3 liters of acetone and these were simultaneously dropped in at 37°C. a solution of 325 grams of potassium cyanate (4 moles) in 1 liter of water and a solution of 435 ml of 30% H2O2 (4.05 moles) in 800 ml of water. The reaction vessel was cooled with ice water. Both solutions were added within 45 minutes. After the end of the addition the color of the solution turned from the initial permanganate color (violet) solution to a light yellow. The solution was cooled in an ice bath to 15°C., then 600 grams of ice, 300 ml of 25% aqueous ammonia and 1 liter added with stirring. Yellow crystals separated out. They were filtered off with suction after 1 hour and washed with water. After boiling with 4 parts of methanol per part of crystals, cooling and filtering with suction there was obtained the pure 2-benzoyl-3-nitro-6-chloropyridine, M.P. 107°C.

reactant | 2-(cyanophenylmethyl)-3-nitro-6-chloropyridine | 2 moles, Five hundred forty eight grams | C(#N)C(C1=NC(=CC=C1[N+](=O)[O-])Cl)C1=CC=CC=C1 | C13H8ClN3O2
reactant | potassium cyanate | 4 moles, 325 grams | [O-]C#N.[K+]
reactant | H2O2 | 4.05 moles, 435 ml | OO | H2O2
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
reactant | ammonia | 300 ml | N | H3N
solvent | acetone | 3 liters | CC(=O)C | C3H6O
solvent | water | 1 liter | O | H2O
solvent | water | 800 ml | O | H2O
product | 2-benzoyl-3-nitro-6-chloropyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])Cl | C12H7ClN2O3
